.title kicad schematic

* u43 net-_u38-pad3_ net-_u12-pad2_ t3 d_and
* u44 net-_u39-pad3_ net-_u10-pad2_ t4 d_and
* u46 net-_u45-pad3_ eq2 net-_u46-pad3_ d_and
* u45 eq0 eq1 net-_u45-pad3_ d_and
* u52 net-_u49-pad3_ aeqb dac_bridge_1
* u49 net-_u46-pad3_ eq3 net-_u49-pad3_ d_and
* u54 net-_u51-pad3_ t4 net-_u54-pad3_ d_or
* u56 net-_u54-pad3_ agtb dac_bridge_1
* u51 net-_u48-pad3_ t3 net-_u51-pad3_ d_or
* u48 t1 t2 net-_u48-pad3_ d_or
* u53 net-_u50-pad3_ u4 net-_u53-pad3_ d_or
* u55 net-_u53-pad3_ altb dac_bridge_1
* u47 u1 u2 net-_u47-pad3_ d_or
* u50 net-_u47-pad3_ u3 net-_u50-pad3_ d_or
* u5 a2 net-_u13-pad1_ adc_bridge_1
* u6 b2 net-_u14-pad1_ adc_bridge_1
* u14 net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
v6 b2 gnd pulse(0 5 0 1n 1n 40m 80m)
v5 a2 gnd pulse(0 5 0 1n 1n 40m 80m)
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u10 net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u3 a1 net-_u11-pad1_ adc_bridge_1
* u2 b0 net-_u10-pad1_ adc_bridge_1
v1 a0 gnd pulse(0 5 0 1n 1n 10m 20m)
v2 b0 gnd pulse(0 5 0 1n 1n 10m 20m)
* u1 a0 net-_u1-pad2_ adc_bridge_1
* u9 net-_u1-pad2_ net-_u17-pad1_ d_inverter
v4 b1 gnd pulse(0 5 0 1n 1n 20m 40m)
* u4 b1 net-_u12-pad1_ adc_bridge_1
v3 a1 gnd pulse(0 5 0 1n 1n 20m 40m)
* u33 net-_u21-pad3_ net-_u22-pad3_ eq2 d_or
* u34 net-_u23-pad3_ net-_u24-pad3_ eq3 d_or
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u16 net-_u16-pad1_ net-_u16-pad2_ d_inverter
* u24 net-_u15-pad1_ net-_u16-pad1_ net-_u24-pad3_ d_and
* u21 net-_u13-pad2_ net-_u14-pad2_ net-_u21-pad3_ d_and
* u23 net-_u15-pad2_ net-_u16-pad2_ net-_u23-pad3_ d_and
* u22 net-_u13-pad1_ net-_u14-pad1_ net-_u22-pad3_ d_and
* u8 b3 net-_u16-pad1_ adc_bridge_1
v7 a3 gnd pulse(0 5 0 1n 1n 80m 160m)
* u7 a3 net-_u15-pad1_ adc_bridge_1
v8 b3 gnd pulse(0 5 0 1n 1n 80m 160m)
* u38 net-_u27-pad3_ net-_u11-pad1_ net-_u38-pad3_ d_and
* u27 eq3 eq2 net-_u27-pad3_ d_and
* u37 net-_u26-pad3_ net-_u14-pad2_ t2 d_and
* u26 eq3 net-_u13-pad1_ net-_u26-pad3_ d_and
* u25 net-_u15-pad1_ net-_u16-pad2_ t1 d_and
* u28 net-_u27-pad3_ eq1 net-_u28-pad3_ d_and
* u42 net-_u36-pad3_ net-_u10-pad1_ u4 d_and
* u41 net-_u35-pad3_ net-_u12-pad1_ u3 d_and
* u36 net-_u17-pad1_ net-_u28-pad3_ net-_u36-pad3_ d_and
* u35 net-_u27-pad3_ net-_u11-pad2_ net-_u35-pad3_ d_and
* u29 net-_u15-pad2_ net-_u16-pad1_ u1 d_and
* u30 eq3 net-_u13-pad2_ net-_u30-pad3_ d_and
* u40 net-_u30-pad3_ net-_u14-pad1_ u2 d_and
* u39 net-_u28-pad3_ net-_u1-pad2_ net-_u39-pad3_ d_and
* u31 net-_u17-pad3_ net-_u18-pad3_ eq0 d_or
* u32 net-_u19-pad3_ net-_u20-pad3_ eq1 d_or
* u19 net-_u11-pad2_ net-_u12-pad2_ net-_u19-pad3_ d_and
* u20 net-_u11-pad1_ net-_u12-pad1_ net-_u20-pad3_ d_and
* u18 net-_u1-pad2_ net-_u10-pad1_ net-_u18-pad3_ d_and
* u17 net-_u17-pad1_ net-_u10-pad2_ net-_u17-pad3_ d_and
a1 [net-_u38-pad3_ net-_u12-pad2_ ] t3 u43
a2 [net-_u39-pad3_ net-_u10-pad2_ ] t4 u44
a3 [net-_u45-pad3_ eq2 ] net-_u46-pad3_ u46
a4 [eq0 eq1 ] net-_u45-pad3_ u45
a5 [net-_u49-pad3_ ] [aeqb ] u52
a6 [net-_u46-pad3_ eq3 ] net-_u49-pad3_ u49
a7 [net-_u51-pad3_ t4 ] net-_u54-pad3_ u54
a8 [net-_u54-pad3_ ] [agtb ] u56
a9 [net-_u48-pad3_ t3 ] net-_u51-pad3_ u51
a10 [t1 t2 ] net-_u48-pad3_ u48
a11 [net-_u50-pad3_ u4 ] net-_u53-pad3_ u53
a12 [net-_u53-pad3_ ] [altb ] u55
a13 [u1 u2 ] net-_u47-pad3_ u47
a14 [net-_u47-pad3_ u3 ] net-_u50-pad3_ u50
a15 [a2 ] [net-_u13-pad1_ ] u5
a16 [b2 ] [net-_u14-pad1_ ] u6
a17 net-_u14-pad1_ net-_u14-pad2_ u14
a18 net-_u13-pad1_ net-_u13-pad2_ u13
a19 net-_u11-pad1_ net-_u11-pad2_ u11
a20 net-_u12-pad1_ net-_u12-pad2_ u12
a21 net-_u10-pad1_ net-_u10-pad2_ u10
a22 [a1 ] [net-_u11-pad1_ ] u3
a23 [b0 ] [net-_u10-pad1_ ] u2
a24 [a0 ] [net-_u1-pad2_ ] u1
a25 net-_u1-pad2_ net-_u17-pad1_ u9
a26 [b1 ] [net-_u12-pad1_ ] u4
a27 [net-_u21-pad3_ net-_u22-pad3_ ] eq2 u33
a28 [net-_u23-pad3_ net-_u24-pad3_ ] eq3 u34
a29 net-_u15-pad1_ net-_u15-pad2_ u15
a30 net-_u16-pad1_ net-_u16-pad2_ u16
a31 [net-_u15-pad1_ net-_u16-pad1_ ] net-_u24-pad3_ u24
a32 [net-_u13-pad2_ net-_u14-pad2_ ] net-_u21-pad3_ u21
a33 [net-_u15-pad2_ net-_u16-pad2_ ] net-_u23-pad3_ u23
a34 [net-_u13-pad1_ net-_u14-pad1_ ] net-_u22-pad3_ u22
a35 [b3 ] [net-_u16-pad1_ ] u8
a36 [a3 ] [net-_u15-pad1_ ] u7
a37 [net-_u27-pad3_ net-_u11-pad1_ ] net-_u38-pad3_ u38
a38 [eq3 eq2 ] net-_u27-pad3_ u27
a39 [net-_u26-pad3_ net-_u14-pad2_ ] t2 u37
a40 [eq3 net-_u13-pad1_ ] net-_u26-pad3_ u26
a41 [net-_u15-pad1_ net-_u16-pad2_ ] t1 u25
a42 [net-_u27-pad3_ eq1 ] net-_u28-pad3_ u28
a43 [net-_u36-pad3_ net-_u10-pad1_ ] u4 u42
a44 [net-_u35-pad3_ net-_u12-pad1_ ] u3 u41
a45 [net-_u17-pad1_ net-_u28-pad3_ ] net-_u36-pad3_ u36
a46 [net-_u27-pad3_ net-_u11-pad2_ ] net-_u35-pad3_ u35
a47 [net-_u15-pad2_ net-_u16-pad1_ ] u1 u29
a48 [eq3 net-_u13-pad2_ ] net-_u30-pad3_ u30
a49 [net-_u30-pad3_ net-_u14-pad1_ ] u2 u40
a50 [net-_u28-pad3_ net-_u1-pad2_ ] net-_u39-pad3_ u39
a51 [net-_u17-pad3_ net-_u18-pad3_ ] eq0 u31
a52 [net-_u19-pad3_ net-_u20-pad3_ ] eq1 u32
a53 [net-_u11-pad2_ net-_u12-pad2_ ] net-_u19-pad3_ u19
a54 [net-_u11-pad1_ net-_u12-pad1_ ] net-_u20-pad3_ u20
a55 [net-_u1-pad2_ net-_u10-pad1_ ] net-_u18-pad3_ u18
a56 [net-_u17-pad1_ net-_u10-pad2_ ] net-_u17-pad3_ u17
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u43 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u46 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u52 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u49 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u54 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u56 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u51 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u48 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u53 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u55 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u47 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u50 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u33 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u34 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u31 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u32 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.1ms 320ms

.tran 0.1e-03 320e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
